US07285663B2
3,3′-Bis(1,3-dimethyl-2,4,6-trioxotetrahydropyrimidin-5-ylidene)-[1,1′]biisoindolylidene
10 g of [1,1′]biisoindolylidene-3,3′-diimine and 18.1 g of 1,3-dimethyl-barbituric acid are stirred in a mixture of 160 ml of NMP and 40 ml of glacial acetic acid at reflux for 5 hours. After cooling to room temperature the suspension is filtered and the filter product is washed with ethanol and then water and dried at 60° C. This gives 14.5 g (70%) of a virtually black powder of a compound of the following formula

reactant | [1,1′]biisoindolylidene-3,3′-diimine | 10 g | C1(NC(C2=CC=CC=C12)=N)=C1NC(C2=CC=CC=C12)=N | C16H12N4
reactant | 1,3-dimethyl-barbituric acid | 18.1 g | CN1C(=O)N(C(=O)CC1=O)C | C6H8N2O3
solvent | NMP | 160 ml | CN1CCCC1=O | C5H9NO
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 3,3′-Bis(1,3-dimethyl-2,4,6-trioxotetrahydropyrimidin-5-ylidene)-[1,1′]biisoindolylidene | CN1C(N(C(C(C1=O)=C1NC(C2=CC=CC=C12)=C1NC(C2=CC=CC=C12)=C1C(N(C(N(C1=O)C)=O)C)=O)=O)C)=O | C28H22N6O6
